US04014904
At -8°C to -12°C and while stirring, 10.3 parts by weight of acetyl chloride was added to a solution of 28.7 parts by weight of 2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran-5-yl dimethylaminosulfonate and 14.1 parts by weight of triethylamine in 110 parts by weight of ether. The mixture was worked up as in Example 1, the compound 2,3-dihydro-3,3-dimethyl-2-methylcarbonyloxybenzofuran-5-yl dimethylaminosulfonate being obtained in the form of crystals; melting point: 67° to 68°C.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran-5-yl dimethylaminosulfonate | CN(C)S(=O)(=O)OC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C12H17NO5S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 2,3-dihydro-3,3-dimethyl-2-methylcarbonyloxybenzofuran-5-yl dimethylaminosulfonate | CN(C)S(=O)(=O)OC=1C=CC2=C(C(C(O2)OC(=O)C)(C)C)C1 | C14H19NO6S
